US04025505
The mixture of 1.5 g of N-(4-nitro-2-methylmercaptomethylphenyl)-4-chlorophthalimide and 50 ml of methyl iodide is refluxed for 6 days in the absence of light and evaporated. The residue is taken up in hot benzene, the mixture filtered and evaporated to yield the N-(4-nitro-2-iodomethylphenyl)-4-chlorophthalimide melting at 183°-187°.

reactant | N-(4-nitro-2-methylmercaptomethylphenyl)-4-chlorophthalimide | 1.5 g | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)CSC | C16H11ClN2O4S
reactant | methyl iodide | 50 ml | CI | CH3I
product | N-(4-nitro-2-iodomethylphenyl)-4-chlorophthalimide | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)CI | C15H8ClIN2O4
